US04490307
The procedure was as described in Example 1 but in place of methyl acrylate there were employed 184 grams of octyl acrylate and first there were added 250 ml of dilute H2SO4 (4N) and the later 300 ml of dilute H2SO4. After the fractional distillation there were isolated 174.5 grams (corresponding to a yield of 80%) of 3-mercaptopropionic acid octyl ester.

reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | octyl acrylate | 184 grams | C(C=C)(=O)OCCCCCCCC | C11H20O2
reactant | H2SO4 | 300 ml | OS(=O)(=O)O | H2O4S
reactant | H2SO4 | 4N, 250 ml | OS(=O)(=O)O | H2O4S
product | 3-mercaptopropionic acid octyl ester | yield of 80% | C(CCCCCCC)OC(CCS)=O | C11H22O2S
